US05302718
Isobutyl 2-acetyloxy-5-[2-(4-(chlorosulfonyl)phenyl)ethenyl]benzoate
Isobutyl 2-acetyloxy-5-[2(4-sulfophenyl)ethenyl]benzoate potassium salt (36.1 g, 0.08 mol) was suspended in dichloromethane. Dimethylformamide (20 ml) and thionyl chloride (20 ml) were added, and the mixture refluxed with stirring for 3 h. After cooling to room temperature, water (15 ml) was added. By careful addition of 5M sodium hydroxide, the pH of the aqueous phase was adjusted to about 7. The phases were separated and the organic phase washed with water. The solution was dried (MgSO4), treated with activated carbon and filtered. After evaporation of the solvent, the solid residue was recrystallized from a toluene and petroleum ether mixture. Yield 19.5 g (57%).

reactant | Isobutyl 2-acetyloxy-5-[2(4-sulfophenyl)ethenyl]benzoate potassium salt | 0.08 mol, 36.1 g | [K].C(C)(=O)OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)O
reactant | Dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
product | Isobutyl 2-acetyloxy-5-[2-(4-(chlorosulfonyl)phenyl)ethenyl]benzoate | C(C)(=O)OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)Cl | C21H21ClO6S
